US09328118B2
Chloroacetyl chloride (0.43 mL) was added to a mixture of a solution of 4-cyanopiperidine (500 mg) in CH2Cl2 (5 mL) and an aqueous 2 M Na2CO3 solution (5.7 mL) under ice-cooling, and the mixture was stirred for 30 minutes under ice-cooling. After the reaction mixture was further stirred at room temperature for 4 hours, CH2Cl2 and water were added thereto, then, extraction was performed on the mixture using CH2Cl2, and the extract was washed with saturated brine. The organic layer was dried over Na2SO4 and filtered, and the filtrate was concentrated under reduced pressure, whereby 1-(chloroacetyl)piperidine-4-carbonitrile (845 mg) was obtained as a light yellow oil.

reactant | Chloroacetyl chloride | 0.43 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | 4-cyanopiperidine | 500 mg | C(#N)C1CCNCC1 | C6H10N2
reactant | Na2CO3 | 2 M, 5.7 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | O | H2O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-(chloroacetyl)piperidine-4-carbonitrile | 845 mg | ClCC(=O)N1CCC(CC1)C#N | C8H11ClN2O
